US07691843B2
To a stirred solution of 3-dimethylcarbamylthio-5-methoxybenzoic acid methyl ester (500 mg, 1.86 mmol) in THF (10 mL) at room temperature was added MeONa (0.5 M in MeOH, 10.0 mL, 5.0 mmol, 2.69 eq.). The reaction was refluxed for 2 h, then cooled to room temperature and added to 1.0 N HCl aqueous solution (150 mL). The resulting mixture was extracted with EtOAc/hexanes (1:1, 150 mL). The organic layer was washed with brine (100 mL), dried over MgSO4 and concentrated in vacuo to give 3-mercapto-5-methoxybenzoic acid methyl ester (0.365 g). The product was used without further purification.

reactant | 3-dimethylcarbamylthio-5-methoxybenzoic acid methyl ester | 1.86 mmol, 500 mg | COC(C1=CC(=CC(=C1)OC)SC(N(C)C)=O)=O | C12H15NO4S
reactant | MeONa | 5.0 mmol, 0.5 M, 10.0 mL, 2.69 eq. | CO[Na]
reactant | HCl | 1.0 N, 150 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-mercapto-5-methoxybenzoic acid methyl ester | 0.365 g | COC(C1=CC(=CC(=C1)OC)S)=O | C9H10O3S
